US07560558B2
Compound 162: 1-{2-[(6,7-Dimethoxy-4-quinazolyl)oxy]-5-methoxyphenyl}-1-ethanone
4-Chloro-6,7-dimethoxyquinazoline (59 mg), 2-hydroxy-5-methoxyacetophenone (213 mg), and 4-dimethylaminopyridine (173 mg) were suspended in o-dichlorobenzene (5 ml), and the suspension was stirred at 160° C. for 10 min. The reaction solution was cooled to room temperature, the solvent was then removed therefrom by distillation under the reduced pressure, and chloroform was added to the residue. The mixture was washed with a 1 N aqueous potassium hydroxide solution and saturated brine and was dried over anhydrous magnesium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography using chloroform and by thin layer chromatography using acetone-hexane to give the title compound (46.5 mg, yield 50%).

reactant | 4-Chloro-6,7-dimethoxyquinazoline | 59 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 2-hydroxy-5-methoxyacetophenone | 213 mg | CC(=O)C1=C(C=CC(=C1)OC)O | C9H10O3
catalyst | 4-dimethylaminopyridine | 173 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-{2-[(6,7-Dimethoxy-4-quinazolyl)oxy]-5-methoxyphenyl}-1-ethanone | 46.5 mg, yield 50% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=C(C=C(C=C1)OC)C(C)=O | C19H18N2O5
